US07368578B2
To a mixture of diethyl (E)-2-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}ethenylphosphonate (0.40 g) and acetonitrile (20 mL) was added trimethylsilyl bromide (0.40 g) at room temperature. After stirring the reaction mixture at room temperature for 1 hr, trimethylsilyl bromide (0.30 g) was added again, and the mixture was further stirred for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give (E)-2-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}ethenylphosphonic acid as pale-yellow crystals (0.28 g, yield 76%). Recrystallization from tetrahydrofuran-hexane gave pale-yellow prism crystals. melting point: 138-140° C.

reactant | diethyl (E)-2-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}ethenylphosphonate | 0.40 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/P(OCC)(OCC)=O)C2=CC=CC=C2)C=C1)OC)C | C32H34N3O8P
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
reactant | trimethylsilyl bromide | 0.40 g | C[Si](C)(C)Br | C3H9BrSi
reactant | trimethylsilyl bromide | 0.30 g | C[Si](C)(C)Br | C3H9BrSi
solvent | Water | O | H2O
product | (E)-2-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}ethenylphosphonic acid | 0.28 g, yield 76% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/P(O)(O)=O)C2=CC=CC=C2)C=C1)OC)C | C28H26N3O8P
